US07851473B2
N-[6-(Acetylamino)pyridin-3-yl]-4-[4-(2,4-difluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate (255 mg, 0.782 mmol), 1-[4-(2,4-difluorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.711 mmol) and diisopropylethylamine (0.248 ml, 1.42 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 15 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 190 mg (58.2%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate | 0.782 mmol, 255 mg | C(C)(=O)NC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C10H10Cl3N3O3
reactant | 1-[4-(2,4-difluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.711 mmol, 200 mg | FC1=C(C=CC(=C1)F)C=1N=C(SC1)N1CCNCC1 | C13H13F2N3S
reactant | diisopropylethylamine | 1.42 mmol, 0.248 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-[6-(Acetylamino)pyridin-3-yl]-4-[4-(2,4-difluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide | 190 mg, 58.2% | C(C)(=O)NC1=CC=C(C=N1)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=C(C=C(C=C1)F)F | C21H20F2N6O2S
